data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2021,2244,[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2.[N:16]#[C:17][C:18]#[N+:19][C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[CH3:1][O:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:18]([C:17]#[N:16])=[N:19][C:20]2([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,18.70403116536096,-26.14756450097628
4452,5084,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:15]=[C:16]1[C:17]#[N:18],water,298.15,14.300448911571715,-31.901557277605843
3724,4252,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14]([CH3:15])=[NH+:16][C-:17]([CH3:18])[CH3:19]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([CH3:18])([CH3:19])[NH:16][C:14]2([C:12]([CH3:11])=[O:13])[CH3:15],water,298.15,39.99579479077229,-16.963352467273854
2210,2451,[CH3:23][NH:24][C:25](=[O:26])[CH:27]=[O+:28][CH-:29][C:30]#[N:31].[N:1]#[C:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]#[C:9][C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1>>[N:1]#[C:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]2=[C:9]([C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[CH:29]([C:30]#[N:31])[O:28][CH:27]2[C:25]([NH:24][CH3:23])=[O:26],water,298.15,13.545499353267978,-67.36602831373976
2309,2565,[CH3:19][NH:20][C:21](=[O:22])[C:23](=[NH+:24][C-:25]([C:26]#[N:27])[C:28]#[N:29])[C:30]([CH3:31])=[O:32].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([O:9][CH3:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([O:9][CH3:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([NH:20][CH3:19])=[O:22])([C:30]([CH3:31])=[O:32])[NH:24][C:25]2([C:26]#[N:27])[C:28]#[N:29],water,298.15,24.30535159323433,-29.481653084338284
4502,5135,[CH3:9][NH:10][C:11](=[O:12])[C:13]([C:14]#[N:15])=[N+:16]([CH3:17])[C-:18]([C:19]#[N:20])[C:21](=[O:22])[O:23][CH3:24].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:18]([C:19]#[N:20])([C:21](=[O:22])[O:23][CH3:24])[N:16]([CH3:17])[C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:14]#[N:15],water,298.15,20.75970111293452,-28.6601265558706
943,1023,[CH3:15][c-:16]1[c:17](=[O:18])[o:19][c:20]([C:21]#[N:22])[n+:23]1[CH3:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:16]1([CH3:15])[C:17](=[O:18])[O:19][C:20]3([C:21]#[N:22])[N:23]1[CH3:24],water,298.15,17.087557094177182,-21.74807706018752
638,698,[CH3:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[N+:18]([CH3:19])=[C:20]([CH3:21])[CH3:22].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:15]([C:13]([CH3:12])=[O:14])([C:16]#[N:17])[N:18]([CH3:19])[C:20]2([CH3:21])[CH3:22],water,298.15,33.9816645182057,-1.6672612446520068
1518,1673,[CH3:13][C-:14]([N+:15]#[C:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:14]([CH3:13])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:15]=[C:16]3[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,11.97304396852976,-58.95741944327697
961,1044,[CH3:14][C:15](=[O:16])[CH:17]=[O+:18][C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[CH:17]([C:15]([CH3:14])=[O:16])[O:18][C:19]2([C:20]#[N:21])[C:22]([CH3:23])=[O:24],water,298.15,16.904244690569787,-37.68043889062772
4715,5383,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C-:12]([N+:13]#[C:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:12]([CH3:11])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[N:13]=[C:14]2[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,15.571458476961803,-24.163138746995816
